US07304057B2
Synthesis of (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid (3-phenyl)-allyl ester
0.301 g (1 mmol) of (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid, 0.200 g (1.5 mmol) of (3-phenyl)-allyl alcohol, 0.088 g (0.33 mmol) of CAS, 0.227 g (1.2 mmol) of DCC and 0.04 g (0.33 mmol) of DMAP were dissolved in 15 mL of CH2Cl2. The mixture was stirred for 24 h at room temperature. The solid was filtrated and the solvent was evaporated. The residual was dissolved in a suitable amount of ethyl acetate (20 ml) and then the mixture was filtered to remove insoluble substance. The ethyl acetate was added to 60 ml and then the liquid was washed with 10% NaHCO3 solution, saturated NaCl solution and dried over Na2SO4. After the drying agent was removed and part of ethyl acetate was evaporated, the crude product was purified by flash column chromatography (eluent: ethyl acetate:cyclohexane=1:4) to obtain the product as a oil (0.21 g).

reactant | (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid | 1 mmol, 0.301 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](CSCC1)C(=O)O)C | C12H15NO4S2
reactant | (3-phenyl)-allyl alcohol | 1.5 mmol, 0.200 g | C1(=CC=CC=C1)C=CCO | C9H10O
reactant | DCC | 1.2 mmol, 0.227 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.33 mmol, 0.04 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid (3-phenyl)-allyl ester | 0.21 g | C1(=CC=CC=C1)C=CCOC(=O)[C@H]1N(CCSC1)S(=O)(=O)C1=CC=C(C=C1)C | C21H23NO4S2
